US05801170
2'-Methoxy-5'-nitroformanilide
A mixture of formic acid (0.45 ml, 0.012 mole) and acetic anhydride (1.06 ml, 0.011 mole) was stirred at 55° C. under Ar for 2 h, and cooled to room temperature. Dry THF (10 ml) was added. To this solution was added 2-methoxy-5-nitroaniline (0.69 g, 0.004 mole). After stirring for 1 h, the suspension was evaporated in vacuo to leave the title compound as a brown solid (0.80 g, 99%).

reactant | formic acid | 0.012 mole, 0.45 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 0.011 mole, 1.06 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methoxy-5-nitroaniline | 0.004 mole, 0.69 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2'-Methoxy-5'-nitroformanilide | 0.80 g, 99% | COC1=C(NC=O)C=C(C=C1)[N+](=O)[O-] | C8H8N2O4
